US09334263B2
A mixture of 1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-4-nitro-1H-pyrazole (2.0 g, 9.5 mmol) and Pd/C (400 mg) in methanol (40 mL) was stirred at RT under H2 overnight. LCMS showed the reaction was completed. The reaction mixture was filtered through a pad of celite, and the filtrate was concentrated to give 1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-1H-pyrazol-4-amine (1.7 g, crude) as a purple oil, which was directly used in the next step without further purification. MS (ES+) C9H15N3O2 requires: 197, found: 198 [M+H]+.

reactant | 1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-4-nitro-1H-pyrazole | 9.5 mmol, 2.0 g | CC1(OCC(O1)CN1N=CC(=C1)[N+](=O)[O-])C | C9H13N3O4
solvent | methanol | 40 mL | CO | CH4O
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | 1-((2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-1H-pyrazol-4-amine | 1.7 g | CC1(OCC(O1)CN1N=CC(=C1)N)C | C9H15N3O2
